US08710236B2
To 4-(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl)-benzoic acid methyl ester (3 g, 10.3 mmol) and K2CO3 (2.1 g, 15.4 mmol) in DMF (15 mL) was added 4-bromobenzyl bromide (3 g, 12.3 mmol). The solution was stirred at room temperature overnight. After partitioning between Et2O and water, the organic portion washed with brine, dried over Na2SO4 then concentrated to afford crude material which was crystallized from MeOH to afford 4-[5-(4-Bromobenzyl)-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl]-benzoic acid methyl ester as a white solid (4.12 g, 87%). 1H NMR (500 MHz, DMSO-d6): δ 7.91 (d, J=8.5 Hz, 2H), 7.55 (d, J=8.5 Hz, 2H), 7.21 (d, J=8 Hz, 2H), 7.02 (d, J=8 Hz, 2H), 3.81 (s, 3H), 3.45 (s, 2H), 3.38 (s, 2H), 0.71 (s, 3H), 0.65 (s, 3H).

reactant | 4-(2,2-Dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl)-benzoic acid methyl ester | 10.3 mmol, 3 g | COC(C1=CC=C(C=C1)CC1C(OC(OC1=O)(C)C)=O)=O | C15H16O6
reactant | K2CO3 | 15.4 mmol, 2.1 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 4-bromobenzyl bromide | 12.3 mmol, 3 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
product | 4-[5-(4-Bromobenzyl)-2,2-dimethyl-4,6-dioxo-[1,3]dioxan-5-ylmethyl]-benzoic acid methyl ester | 4.12 g, 87% | COC(C1=CC=C(C=C1)CC1(C(OC(OC1=O)(C)C)=O)CC1=CC=C(C=C1)Br)=O | C22H21BrO6
